US07030116B2
(R)-2-(2-Methyl-propane-1-sulfonylmethyl)-4-morpholin-4-yl-4-oxo-N-[(S)-1-(3-phenyl-1,2,4-oxadiazole-5-carbonyl)-propyl]-butyramide
It is similarly prepared according to general procedure given for Example 2 above but using 2-(2-Methyl-propane-1-sulfonylmethyl)-4-morpholin-4-yl-4-oxo-butyric acid and (S)-2-Amino-1-(3-phenyl-1,2,4-oxadiazol-5-yl)-butan-1-ol.

reactant | 2-(2-Methyl-propane-1-sulfonylmethyl)-4-morpholin-4-yl-4-oxo-butyric acid | CC(CS(=O)(=O)CC(C(=O)O)CC(=O)N1CCOCC1)C | C13H23NO6S
reactant | (S)-2-Amino-1-(3-phenyl-1,2,4-oxadiazol-5-yl)-butan-1-ol | NC([C@H](O)C1=NC(=NO1)C1=CC=CC=C1)CC | C12H15N3O2
product | (R)-2-(2-Methyl-propane-1-sulfonylmethyl)-4-morpholin-4-yl-4-oxo-N-[(S)-1-(3-phenyl-1,2,4-oxadiazole-5-carbonyl)-propyl]-butyramide | CC(CS(=O)(=O)C[C@@H](C(=O)N[C@@H](CC)C(=O)C1=NC(=NO1)C1=CC=CC=C1)CC(=O)N1CCOCC1)C | C25H34N4O7S
